US07696352B2
5-Chloro-N-((1-(4-(2-oxopyrazin-1(2H)-yl)phenyl)-1H-pyrazol-4-yl)methyl)thiophene-2-carboxamide (111)
A mixture of 5-chloro-N-((1-(4-iodophenyl)-1H-pyrazol-4-yl)methyl)thiophene-2-carboxamide (75 mg, 0.17 mmol), 2-hydroxypyrazine (43 mg, 0.45 mmol), 8-hydroxyquinoline (15 mg, 0.10 mmol) and K2CO3 (100 mg, 0.72 mmol) in DMSO (1 mL) was degassed with Argon before being charged with CuI (19 mg, 0.10 mmol). The mixture in a sealed tube was heated at 130° C. overnight. It was then purified by HPLC to give the title compound (10 mg). MS 412.0 and 414.0 (M+H, Cl pattern).

reactant | 5-chloro-N-((1-(4-iodophenyl)-1H-pyrazol-4-yl)methyl)thiophene-2-carboxamide | 0.17 mmol, 75 mg | ClC1=CC=C(S1)C(=O)NCC=1C=NN(C1)C1=CC=C(C=C1)I | C15H11ClIN3OS
reactant | 2-hydroxypyrazine | 0.45 mmol, 43 mg | OC1=NC=CN=C1 | C4H4N2O
reactant | 8-hydroxyquinoline | 0.10 mmol, 15 mg | OC=1C=CC=C2C=CC=NC12 | C9H7NO
reactant | K2CO3 | 0.72 mmol, 100 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | DMSO | 1 mL | CS(=O)C | C2H6OS
catalyst | CuI | 0.10 mmol, 19 mg | [Cu]I
product | 5-Chloro-N-((1-(4-(2-oxopyrazin-1(2H)-yl)phenyl)-1H-pyrazol-4-yl)methyl)thiophene-2-carboxamide | 10 mg | ClC1=CC=C(S1)C(=O)NCC=1C=NN(C1)C1=CC=C(C=C1)N1C(C=NC=C1)=O | C19H14ClN5O2S
